US09168247B2
Synthesis of Compound PL3: 1-methyl-7-(3-methylbutyloxy)-9-(3-methylbutyl)-β-carboline
The title compound was synthesized from 1-methyl-7-hydroxy-β-carboline (1.504 g, 4.770 mmol) in presence of 1-bromo-3-methylbutane (1.440 g, 9.520 mmol) as described here above.

reactant | 1-methyl-7-hydroxy-β-carboline | 4.770 mmol, 1.504 g | CC1=NC=CC=2C3=CC=C(C=C3NC12)O | C12H10N2O
reactant | 1-bromo-3-methylbutane | 9.520 mmol, 1.440 g | BrCCC(C)C | C5H11Br
product | 1-methyl-7-(3-methylbutyloxy)-9-(3-methylbutyl)-β-carboline | Yield=69% | CC1=NC=CC=2C3=CC=C(C=C3N(C12)CCC(C)C)OCCC(C)C | C22H30N2O
